US08124636B2
Dess Martin Periodinane (7.8 g, 0.0186 mol) was added in one portion to the solution of (rac)-2-hydroxymethyl-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester (2 g, 0.0093 mol) in DCM (50 mL) under an inert atmosphere. The reaction was stirred until completion (about 2 h) then quenched with saturated solution of sodium thiosulphate, extracted with DCM (3×100 mL) washed with brine (50 mL), dried over anhydrous sodium sulphate, and concentrated using a rotary evaporator to afford 1.6 g (84%) of (rac)-2-formyl-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester as a light brown colored oil.

reactant | Dess Martin Periodinane | 0.0186 mol, 7.8 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (rac)-2-hydroxymethyl-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.0093 mol, 2 g | C(C)(C)(C)OC(=O)N1C(CCC1)(C)CO | C11H21NO3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (rac)-2-formyl-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.6 g, 84% | C(C)(C)(C)OC(=O)N1C(CCC1)(C)C=O | C11H19NO3
